US04686230
(e) 3-Methoxy-2-methyl-4-nitropyridine 1-oxide
8 ml of concentrated nitric acid are added in four portions of 2 ml each to 5.4 g of 3-methoxy-2-methylpyridine 1-oxide in 12 ml of glacial acetic acid at 80° C. in the course of 6 hours, the mixture is stirred at the same temperature overnight, a further 8 ml of nitric acid are added in three portions in the course of 6 hours and the mixture is stirred for a further 15 hours. After cooling, the mixture is poured onto ice (40 g) and brought to pH 6 with 10N sodium hydroxide solution, the by-product (3-methoxy-2-methyl-4-nitropyridine) which has precipitated out is filtered off and the filtrate is extracted four times with 50 ml of methylene chloride. After drying, the combined organic phases are concentrated completely and the residue is recrystallised from a little methylene chloride/petroleum ether. 4.2 g (57% of theory) of the title compound are obtained in the form of yellow crystals of m.p. 103°-104° C.

reactant | nitric acid | 8 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-methoxy-2-methylpyridine 1-oxide | 5.4 g | COC=1C(=[N+](C=CC1)[O-])C | C7H9NO2
reactant | nitric acid | 8 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 3-Methoxy-2-methyl-4-nitropyridine 1-oxide | COC=1C(=[N+](C=CC1[N+](=O)[O-])[O-])C | C7H8N2O4
